data/mechanisms/records/IMS4-EQ4.17c.json
{"mechanism_id": "IMS4-EQ4.17c", "species": [{"species_id": "methyl_3_hexanol_molecular_ion", "mapped_smiles": "[CH3:4][CH2:3][CH2:2][C:1]([CH3:7])([CH2:5][CH3:6])[OH+:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "propyl_ethyl_hydroxycarbenium_mz101", "mapped_smiles": "[CH3:4][CH2:3][CH2:2][C:1]([CH2:5][CH3:6])=[OH+:8]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "methyl_radical", "mapped_smiles": "[CH3:7]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methyl_3_hexanol_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["propyl_ethyl_hydroxycarbenium_mz101", "methyl_radical"]}], "steps": [{"step_id": "step_alpha_cleavage_loss_methyl", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [8]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_4_17c", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_loss_methyl", "support_type": "textbook_proposed", "locator": {"page": 61, "equation": "4.17", "figure": "Figure 4.2 (mass spectrum of 3-methyl-3-hexanol)", "panel": "loss of CH3*, product printed third (lower right): [C3H7C(C2H5)=OH]+ m/z 101, 10%", "section": "4.6 Radical-site initiation (alpha-cleavage)"}, "confidence": 0.9, "curator_note": "Book draws 2 arc(s) for this pathway; moves <1,2> are drawn, move <3> is an implicit homolysis hook required for electron balance (not drawn on the page). ARC COUNT, verified by zooming the scan: FOUR arcs are printed on the one structure - one SOLID fishhook from the odd electron drawn as '+.' on the hydroxyl oxygen, ending with a half-arrowhead (barb) on the C-O bond, and THREE DASHED fishhooks, one from each alpha C-C bond, all ending with a barb on that same C-O bond. This record takes the two arcs of the C-CH3 channel: the shared solid oxygen hook (move 1) and the dashed arc that descends from the vertical C(1)-CH3 bond to the barb sitting above the C-O bond (move 2). The electron that departs with the methyl radical is NOT drawn. LOCALIZATION (convention B): the charge and the odd electron are drawn on oxygen, and the precursor SMILES writes that literally as [OH+:8] with two bonds and one unpaired electron. Methyl loss is the slowest of the three competing alpha cleavages, 10% versus 50% (C2H5* loss) and 100% (C3H7* loss); the corresponding m/z 101 peak in Figure 4.2 is drawn as a very small peak labelled '101 alpha', noticeably weaker than a tenth of the base peak, so the printed 10% should be read as the book's rounded relative rate rather than a measurement read off that figure."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 116.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_101", "species_id": "propyl_ethyl_hydroxycarbenium_mz101", "step_id": "step_alpha_cleavage_loss_methyl", "observed_mz": 101.0961, "relative_intensity": 0.1, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.95}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-23T00:00:00Z", "modified_at": "2026-07-23T00:00:00Z"}}
